US08058431B2
6) 6,7-Dimethoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide
1.00 g (3.20 mmol) 6,7-Dimethoxy-1-methyl-2-phenyl-1H-quinazolin-4-thione was slowly added to 5 ml (80 mmol) iodomethane at 0° C. and stirred for 1 h at room temperature. The solution was filtrated and the residue washed with ethyl ether and dichloromethane.

reactant | 6,7-Dimethoxy-1-methyl-2-phenyl-1H-quinazolin-4-thione | 3.20 mmol, 1.00 g | COC=1C=C2C(N=C(N(C2=CC1OC)C)C1=CC=CC=C1)=S | C17H16N2O2S
reactant | iodomethane | 80 mmol, 5 ml | IC | CH3I
product | 6,7-Dimethoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide | [I-].COC=1C=C2C(=NC(=[N+](C2=CC1OC)C)C1=CC=CC=C1)SC | InChI=1S/C18H19N2O2S.HI/c1-20-14-11-16(22-3)15(21-2)10-13(14)18(23-4)19-17(20)12-8-6-5-7-9-12;/h5-11H,1-4H3;1H/q+1;/p-1
